US05116862
1-(But-3-ynyloxymethyl)-4-n-propyl-2,6,7-trioxabicyclo[2.2.2]octane was prepared from 2-(but-3-ynyloxy)acetic acid and 3-hydroxymethyl-3-n-propyl-oxetane using methodology described in Example I

reactant | 2-(but-3-ynyloxy)acetic acid | C(CC#C)OCC(=O)O | C6H8O3
reactant | 3-hydroxymethyl-3-n-propyl-oxetane | OCC1(COC1)CCC | C7H14O2
product | 1-(But-3-ynyloxymethyl)-4-n-propyl-2,6,7-trioxabicyclo[2.2.2]octane | C(CC#C)OCC12OCC(CO1)(CO2)CCC | C13H20O4
